US03970704
Sodium ethoxide (prepared from 0.2 g. of sodium and 12 ml. of ethanol) is slowly added to a mixture of 1.1 g. of 7-ethoxy-3,7-dimethyloctan-1-al, diethyl 3-ethoxycarbonyl-2-methylprop-2-enyl phosphonate and 50 ml. of dimethylformamide, with stirring, under nitrogen, at 0°. The reaction is stirred for 1.5 hours after addition is complete and then worked up by extraction with ether to yield ethyl 11-ethoxy-3,7,11-trimethyldodeca-2,4-dienoate, mostly trans(2), trans(4), which can be further purified by chromatography and distillation.

reactant | Sodium ethoxide | 12 ml, 0.2 g | [O-]CC.[Na+]
reactant | 7-ethoxy-3,7-dimethyloctan-1-al | C(C)OC(CCCC(CC=O)C)(C)C | C12H24O2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | ethyl 11-ethoxy-3,7,11-trimethyldodeca-2,4-dienoate | C(C)OC(CCCC(CC=CC(=CC(=O)OCC)C)C)(C)C | C19H34O3
